Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tetanus & diphtheria toxoids / ancefras / Iodinated Contrast 
Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH cirrhosis, HTN, breast cancer, who presented with 
abdominal pain.  
 She reports a one week history of severe lower abdominal pain. 
Pain is band like and wraps around left flank. Pain is cramping, 
intermittent and sometimes last for hours. Her home tramadol 
sometimes helps treat the pain. The pain is variable in duration 
but can last up to hours. It is worsened with food and she 
reports she has been unable to eat for the past week apart from 
a small amount of apple sauce. Movement also exacerbates the 
pain. She has never had anything like this before.  
 She does have some associated nausea but no vomiting. She 
experiences diaphoresis with the pain. She denies any diarrhea. 
She occasionally has constipation but takes senna and generally 
has a bowel movement every other day. Her last bowel movement 
was yesterday.  
 She also reports occasional small flecks of blood in her sputum 
when she clears her breath or coughs.  
 In the ED, initial vitals were: 99.2 93 141/83 19 94% RA.  
 Labs were notable for mild leukocytosis to 12.3 with a 
neutrophilic predominance. UA was negative for infection. Hg, 
platelets, chem panel, LFTs, and lipase were all normal. Lactate 
was 1.7. D-dimer was elevated to 1795 and so she underwent a 
CTA.  
 CTA chest was negative for PE, but her CT abdomen was 
suggestive of cirrhosis, noting a shrunken nodular liver, 
perigastric varices, and splenomegaly.  
 She was given 500cc of IV NS.  
 
 On the floor, initial vitals were 97.9 127/57 71 20 97% RA.  
 
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 
 
Past Medical History:
Hypertension  
 Cirrhosis, ? medication related  
 Breast cancer in ___ s/p R mastectomy  
 Total hip and knee replacements bilaterally  
 S/p cholecystectomy  
 MEDICATIONS:  
 The Preadmission Medication list is accurate and complete  
 1. TraMADol 50 mg PO Q6H:PRN pain  
 2. Levothyroxine Sodium 150 mcg PO DAILY  
 3. LORazepam 1 mg PO BID:PRN anxiety  
 4. Lisinopril 40 mg PO DAILY  
 5. Gabapentin 500 mg PO QAM  
 6. Gabapentin 500 mg PO QPM  
 7. Gabapentin 300 mg PO QHS 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: 97.9 127/57 71 20 97% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI  
CV: Regular rate, irregular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, diffuse tenderness to palpation worse in RLQ 
without any involuntary guarding or rigidity  
GU: No foley  
Ext: trace ankle edema b/l 

DISCHARGE PHYSICAL EXAM:
Vitals: 98.5 122-127/68-71 ___ 18 95% RA
General: Alert, no acute distress  
HEENT: Sclera anicteric, conjunctivae noninjected 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, tender to palpation in LUQ, LLQ; no ttp in RUQ or 
RLQ, no guarding, rebound, rigidity 
Ext: Warm, well perfused  
Neuro: Oriented to person, place, and time. MAE, grossly 
nonfocal.
 
Pertinent Results:
ADMISSION LABS:
___ 10:30PM BLOOD WBC-12.3* RBC-4.68 Hgb-14.8 Hct-43.5 
MCV-93 MCH-31.6 MCHC-34.0 RDW-13.4 RDWSD-45.5 Plt ___
___ 10:30PM BLOOD Neuts-74.8* Lymphs-13.9* Monos-9.3 
Eos-1.3 Baso-0.3 Im ___ AbsNeut-9.21* AbsLymp-1.72 
AbsMono-1.15* AbsEos-0.16 AbsBaso-0.04
___ 10:30PM BLOOD ___ PTT-29.4 ___
___ 10:30PM BLOOD Glucose-129* UreaN-10 Creat-0.9 Na-140 
K-3.8 Cl-104 HCO3-25 AnGap-15
___ 10:30PM BLOOD ALT-23 AST-25 CK(CPK)-96 AlkPhos-75 
TotBili-1.4
___ 11:14PM BLOOD D-Dimer-1795*
___ 10:30PM BLOOD TSH-11*
___ 10:30PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 10:30PM BLOOD HCV Ab-Negative
___ 10:30PM BLOOD Lactate-1.7

DISCHARGE LABS:
___ 05:09AM BLOOD WBC-9.1 RBC-4.09 Hgb-13.0 Hct-38.5 MCV-94 
MCH-31.8 MCHC-33.8 RDW-13.5 RDWSD-46.0 Plt ___
___ 05:09AM BLOOD ___ PTT-30.3 ___
___ 05:09AM BLOOD Glucose-90 UreaN-10 Creat-0.8 Na-138 
K-3.3 Cl-105 HCO3-25 AnGap-11
___ 05:09AM BLOOD ALT-14 AST-20 AlkPhos-65 TotBili-0.8
___ 05:09AM BLOOD Calcium-8.4 Phos-2.3* Mg-1.9

IMAGING
CTA chest ___:
1. No evidence of pulmonary embolism. 
2. Cirrhotic morphology of the liver with evidence of portal 
hypertension 
including splenomegaly and varices.  No focal liver lesion 
identified, however 
evaluation is limited on this single phase postcontrast study. 
3. 4 mm pulmonary nodule and mediastinal lymphadenopathy. 
  
RECOMMENDATION(S):  Given the patient's history of malignancy, 
if previous 
imaging studies of the chest were performed elsewhere these 
would be helpful for comparison to document stability of the 
lymph nodes and pulmonary nodule. If no priors exists for 
comparison, recommend followup in 3 months. 

RUQ US ___:
1. Cirrhotic liver morphology.  No focal liver lesions 
identified. 
2. Status post cholecystectomy. 

 
Brief Hospital Course:
___ is an ___ year old woman with a history of 
cirrhosis and breast cancer (___) who presented with migratory 
abdominal pain and hemoptysis.

# Abdominal pain: She presented with report of LUQ/LLQ abdominal 
pain. At CT abdomen showed surgically absent gallbladder and no 
ductal dilatation, no colitis, and no nephrolithiasis. On exam, 
despite endorsing pain the LUQ, she was only tender to palpation 
in the RUQ and RLQ. LFTs were normal, but she does have a 
history of cirrhosis. a RUQ US showed cirrhosis without masses 
and no portal vein thrombosis. Pain was treated with low dose 
Tylenol and her home tramadol. 

# Hemoptysis: She reported blood-streaked sputum. She had a CTA 
which was negative for PE. the incidence of hemoptysis was low 
and decreased during her hospitalization. Her CBC was stable. 
She was found on CT to have a small pulmonary nodule which 
should be followed up with repeat imaging, especially given her 
history of breast cancer. 
 
# Cirrhosis: She has a history of cirrhosis but was not sure 
why. She thought it might be a medication effect but cited 
ibuprofen. Denied EtOH history. CT showed portal hypertension, 
varices, and splenomegaly. She had a mildly elevated INR but 
otherwise no evidence of synthetic dysfunction. Shed denied any 
history of encephalopathy, ascites, or variceal bleeds. 
Hepatitis serologies were negative (she was not immune). 
Hepatology was consulted and felt no inpatient work up was 
needed outside of a RUQ US which showed no masses or portal vein 
thrombus. She reported that she had stopped following with a 
hepatologist a few years ago (had been seen at ___) due 
to difficulty getting to the clinic. She was strongly encouraged 
to establish care with hepatology.

Transitional issues:
-Patient found to have 4 mm pulmonary nodule and mediastinal 
lymphadenopathy on CTA chest. Per radiology: Given the patient's 
history of malignancy, if previous imaging studies of the chest 
were performed elsewhere these would be helpful for comparison 
to document stability of the lymph nodes and pulmonary nodule. 
If no priors exists for comparison, recommend followup in 3 
months. 
-Given patient's cirrhosis, consider hepatitis immunization
-TSH found to be elevated at 11, consider fT4 testing, 
adjustment of levothyroxine if needed
-Patient started on PPI; if no benefit in one month, could 
discontinue
-Full code
-Contact: ___ (husband and HCP): ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO Q6H:PRN pain 
2. Levothyroxine Sodium 150 mcg PO DAILY 
3. LORazepam 1 mg PO BID:PRN anxiety 
4. Lisinopril 40 mg PO DAILY 
5. Gabapentin 500 mg PO QAM 
6. Gabapentin 500 mg PO QPM 
7. Gabapentin 300 mg PO QHS 

 
Discharge Medications:
1. Gabapentin 500 mg PO QAM 
2. Gabapentin 500 mg PO QPM 
3. Gabapentin 300 mg PO QHS 
4. Levothyroxine Sodium 150 mcg PO DAILY 
5. LORazepam 1 mg PO BID:PRN anxiety 
6. TraMADol 50 mg PO Q6H:PRN pain 
7. Lisinopril 40 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Abdominal pain
Hemoptysis
Cirrhosis

Secondary diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were hospitalized at ___ 
because you were having abdominal pain and coughing up blood. 
The blood tests and imaging you had done were reassuring that 
your symptoms are not being caused by anything dangerous. You do 
not have a blood clot in  your lungs. You blood levels are 
stable. You do continue to have cirrhosis, or scarring, of your 
liver. It is very important that you follow up with a liver 
doctor ___ a hepatologist) for the safe treatment and 
monitoring of your liver disease. 

We do not know what the cause of your abdominal pain is. It may 
be due to muscle strain. You should follow up with physical 
therapy to strengthen the muscles in your abdomen.

The small amount of blood you saw when you coughed was likely 
due to breakage of small blood vessels from coughing. It is not 
concerning. You should come back to emergency department if you 
begin coughing up larger volumes of blood or if you vomit blood 
or pass blood in your stool.

It was a pleasure participating in your care. We wish you all 
the best in the future.

Sincerely,

Your ___ team
 
Followup Instructions:
___